US04371534
0.69 g. (2 mmoles) of 2-benzyloxycarbonyl-3-phenyl-4-ethyl-tetrahydro-1,2,4-oxadiazin-5-one are dissolved in 7 ml. of acetic anhydride, 0.1 g. of a 5%, palladium-on-activated carbon catalyst are added and hydrogen gas is bubbled through the mixture at room temperature under vigorous stirring. The progress of hydrogenation is monitored by thin layer chromatography. As soon as the reaction is complete, the catalyst is filtered off, the filtrate is evaporated to dryness under reduced pressure and the residue is recrystallized from 1 ml. of ethanol. 0.41 g. (82%) of 2-acetyl-3-phenyl-4-ethyl-tetrahydro-1,2,4-oxadiazin-5-one are obtained, melting at 130° C. to 132° C. RfA =0.6.

reactant | 2-benzyloxycarbonyl-3-phenyl-4-ethyl-tetrahydro-1,2,4-oxadiazin-5-one | 2 mmoles | C(C1=CC=CC=C1)OC(=O)N1OCC(N(C1C1=CC=CC=C1)CC)=O | C19H20N2O4
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
catalyst | palladium | [Pd] | Pd
product | 2-acetyl-3-phenyl-4-ethyl-tetrahydro-1,2,4-oxadiazin-5-one | 82% | C(C)(=O)N1OCC(N(C1C1=CC=CC=C1)CC)=O | C13H16N2O3
